US05993780
a. 3,5-Dinitro-(2-hydroxyethyl)benzene
3,5-Dinitrostyrene (0.28 g, 1.43 mmol) was dissolved in acetonitrile (150 ml) and water (300 ml) was added. The mixture was poured into a photolysis apparatus and irradiated with an UV-lamp (HPK 125, Phillips) for 3 h. The organic solvent was evaporated and the aqueous phase extracted with methylene chloride (2×100 ml). The solvent was evaporated and the residue was purified by flash chromatography on a column of silica using heptane/ethyl acetate (1/1) as eluent. Evaporation of solvent gave 76 mg (25%) of a crystalline product.

reactant | 3,5-Dinitrostyrene | 1.43 mmol, 0.28 g | [N+](=O)([O-])C=1C=C(C=C)C=C(C1)[N+](=O)[O-] | C8H6N2O4
reactant | water | 300 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3,5-Dinitro-(2-hydroxyethyl)benzene | 76 mg, 25% | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])CCO | C8H8N2O5
